US08278324B2
1,1-dimethylethyl 5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3,4-dihydro-2(1H)-isoquinolinecarboxylate
To a solution of 3-cyano-4-[(1-methylethyl)oxy]benzoic acid (can be prepared as described in WO2005/58848, 737 mg, 3.59 mmol) and oxalyl chloride (360 μl) in DCM (20 mL) was added DMF (20 μl). The solution was stirred at room temperature for 90 min, then concentrated in vacuo, and redissolved in dry DMF (6 mL). Separately, 1,1-dimethylethyl 5-[(hydroxyamino)(imino)methyl]-3,4-dihydro-2(1H)-isoquinolinecarboxylate (Preparation 1, 1.05 g, 3.60 mmol), N,N-dimethyl-4-pyridinamine (DMAP) (20 mg) and N,N-diisopropylethylamine (DIPEA) (1.31 ml, 7.50 mmol) were dissolved in DMF (10 mL). 5 mL of the first DMF solution was added to the second solution, and the yellow solution stirred at room temperature for 1 h and then at 95° C. for 18 h. The reaction was concentrated in vacuo then partitioned between DCM (50 mL) and saturated aqueous NaHCO3 (50 mL). The organics were washed with saturated aqueous NaHCO3 (50 mL), then the combined aqueous extracted with DCM (20 mL). The combined organics were concentrated in vacuo to give a crude brown oil. Flash chromatography (gradient [0.5-4%] MeOH in DCM) and concentration in vacuo gave the title compound as a pale yellow solid (512 mg, 37%). 1H NMR (400 MHz, CDCl3) δ 8.42 (1H, d), 8.34 (1H, dd), 7.96 (1H, d), 7.34 (1H, t), 7.29 (1H, d), 7.13 (1H, d), 4.80 (1H, sept), 4.67 (2H, s), 3.68 (2H, t), 3.24 (2H, t), 1.51 (9H, s), 1.48 (6H, d); m/z (ES) 361 [M+H-100]+.

reactant | 3-cyano-4-[(1-methylethyl)oxy]benzoic acid | 3.59 mmol, 737 mg | C(#N)C=1C=C(C(=O)O)C=CC1OC(C)C | C11H11NO3
reactant | oxalyl chloride | 360 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,1-dimethylethyl 5-[(hydroxyamino)(imino)methyl]-3,4-dihydro-2(1H)-isoquinolinecarboxylate | 3.60 mmol, 1.05 g | ONC(C1=C2CCN(CC2=CC=C1)C(=O)OC(C)(C)C)=N | C15H21N3O3
reactant | N,N-diisopropylethylamine | 7.50 mmol, 1.31 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethyl-4-pyridinamine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 μl | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl 5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3,4-dihydro-2(1H)-isoquinolinecarboxylate | 512 mg, 37% | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=C2CCN(CC2=CC=C1)C(=O)OC(C)(C)C | C26H28N4O4
